US05556861
7.5 g of 1-benzhydryl-3-methanesulphonyloxy-3-propyl-azetidine are added to a solution at approximately 5° C. of 100 cm3 of a solution of ammonia in ethanol (prepared from 15 g of ammonia in 100 cm3 of ethanol at 5° C., the temperature is allowed to rise to approximately 20° C. and the mixture is stirred for 16 hours at the same temperature. After concentration to dryness under reduced pressure (20 kPa) at approximately 40° C., the residue is taken up with 25 cm3 of water and 2.22 g of methanesulphonic acid. The aqueous phase is washed with twice 25 cm3 of ethyl ether, treated with 10 cm3 of 40% aqueous sodium hydroxide and extracted with 3 times 50 cm3 of dichloromethane; the combined organic extracts are washed with 10 cm3 of water saturated with sodium chloride, dried over magnesium sulphate and concentrated to dryness under the above conditions. 5.2 g of 3-amino-1-benzhydryl-3-propylazetidine are obtained in the form of an oily product, which is used without further purification for the subsequent steps.

reactant | 1-benzhydryl-3-methanesulphonyloxy-3-propyl-azetidine | 7.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(CCC)OS(=O)(=O)C | C20H25NO3S
reactant | ammonia | N | H3N
reactant | ammonia | 15 g | N | H3N
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 100 cm3 | C(C)O | C2H6O
product | 3-amino-1-benzhydryl-3-propylazetidine | 5.2 g | NC1(CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C19H24N2
